US09107916B2
B. 2-[5-[(3-cyanophenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylic acid
A solution of methyl 2-[5-[(3-cyanophenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylate (1.0 eq) and LiOH.H2O (3.0 eq) in a mixture of water (2 mL) and THF (2 mL) was stirred at room temperature for 30 min. Diluted with another 2 mL water, and the mixture was washed with ethyl acetate twice (6 mL×2). The water phase was acidified with 1N HCl (pH=3), filtered and dried the solid to give the title compound. 1H NMR (400 MHz, DMSO-d6): δ 5.36 (2H, s), 6.03 (1H, s), 7.61-7.64 (2H, m), 7.77-7.78 (1H, m), 7.82-7.84 (2H, m), 7.96 (1H, s), 8.09 (1H, s), 8.69 (1H, d, J=4.4 Hz), 13.92 (1H, s). LCMS (mobile phase: 10%-95% Acetonitrile-Water-0.02% NH4Ac): purity is >95%, Rt=2.106 min. [M+H] Calc'd for C17H12N4O3, 321. Found, 321.

reactant | methyl 2-[5-[(3-cyanophenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylate | 1.0 eq | C(#N)C=1C=C(C=CC1)COC1=CC=NN1C1=NC=CC(=C1)C(=O)OC | C18H14N4O3
reactant | LiOH.H2O | 3.0 eq | O[Li].O
solvent | water | 2 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 2-[5-[(3-cyanophenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylic acid | C(#N)C=1C=C(C=CC1)COC1=CC=NN1C1=NC=CC(=C1)C(=O)O | C17H12N4O3
